US07767625B2
Preparation of 3-tert-butyl-2-ethyl-phenylamine
In a hydrogenation apparatus, a mixture of 1,5 g (8,55 mmol) 1-tert-butyl-2-vinyl-3-nitrobenzene and 250 mg 5% Pd/C and 20 ml of absolute methanol is hydrogenated at room temperature for 2,5 hours. The catalyst is filtered off and the solvent is evaporated in a water jet vacuum. The crude reaction product can be used directly for further chemical transformations. This gives 1,5 g 3-tert-butyl-2-vinyl-phenylamine in the form of a slightly brownish liquid (98% of theory).

reactant | 1-tert-butyl-2-vinyl-3-nitrobenzene | 8,55 mmol, 1,5 g | C(C)(C)(C)C1=C(C(=CC=C1)[N+](=O)[O-])C=C | C12H15NO2
reactant | 3-tert-butyl-2-vinyl-phenylamine | 1,5 g | C(C)(C)(C)C=1C(=C(C=CC1)N)C=C | C12H17N
catalyst | Pd/C | 250 mg | [Pd] | Pd
solvent | methanol | 20 ml | CO | CH4O
product | 3-tert-butyl-2-ethyl-phenylamine | C(C)(C)(C)C=1C(=C(C=CC1)N)CC | C12H19N
